US04728741
B: 1-Benzyl-2-azidomethylbenzimidazole
A solution of 1-Benzyl-2-chloromethylbenzimidazole hydrochloride (16 g, 0.055 mole) in N,N-dimethylformamide (80 ml) was stirred and a solution of sodium azide (17 g, 0.26 mole) in water (40 ml) was added. The resulting yellow solution was heated on a steam bath for 30 minutes, diluted with water (250 ml) and the crystalline product was filtered, dried in vacuo at room temperature, and recrystallized from 2-propanol to yield 10.5 g (73%) of product: mp 108°-110°.

reactant | 1-Benzyl-2-chloromethylbenzimidazole hydrochloride | 0.055 mole, 16 g | Cl.C(C1=CC=CC=C1)N1C(=NC2=C1C=CC=C2)CCl
reactant | sodium azide | 0.26 mole, 17 g | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | water | 40 ml | O | H2O
solvent | water | 250 ml | O | H2O
product | 1-Benzyl-2-azidomethylbenzimidazole | 10.5 g, 73% | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC=C2)CN=[N+]=[N-] | C15H13N5
